US06124341
N-(2,4.6-Trimethylphenyl) bromoacetamide
To a stirred solution of 2,4,6-trimethylaniline (1 g, 7.40 mmol) in methylene chloride (25 mL) at -50° C. was added successively N,N-diisopropylethylamine (1.58 mL, 8.14 mmol, 1.1 eq) and bromoacetyl bromide (0.72 mL, 7.40 mmol, 1 eq) such that the temperature did not exceed -40° C. On completion of the addition, the cooling bath was removed, and the reaction mixture was allowed to warm to room temperature. After stirring for a further 30 minutes, the mixture was diluted with ether (70 mL) and poured into 1N sodium bisulfate solution. The phases were separated, and the upper layer was washed successively with water and brine. The organic phase was dried (Na2SO4) and the solvent evaporated to half volume, at which point the product crystallized. The crystals were removed by vacuum filtration to afford the title compound (1.51 g, 80%).

reactant | 2,4,6-trimethylaniline | 7.40 mmol, 1 g | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | N,N-diisopropylethylamine | 8.14 mmol, 1.58 mL, 1.1 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromoacetyl bromide | 7.40 mmol, 0.72 mL, 1 eq | BrCC(=O)Br | C2H2Br2O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(2,4.6-Trimethylphenyl) bromoacetamide | 1.51 g, 80% | CC1=C(C(=CC(=C1)C)C)NC(CBr)=O | C11H14BrNO
